US05668176
Step A: Preparation of N-(4-iso-propylbenzenesulfonyl)-α-(4-(methylsulfonylcarbamyl)-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetamide
A solution of 146 mg (0.271 mmol) of N-(4-iso-propylbenzenesulfonyl)-α-(4-carboxy-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetamide (free acid form of the product of Example 58) and 66 mg (0.406 mmol) of 1,1'-carbonyldiimidazole in 1 mL of dry tetrahydrofuran was refluxed for 1.5 hours. The reaction mixture was cooled to room temperature and 39 mg (0.406 mmol) of methanesulfonamide and 101 μL (0.667 mmol) of DBU were added and the mixture was refluxed again. The reaction progress was monitored by analytical HPLC analysis using a Waters 600E HPLC system with a 4.6×250 mm 5 μM Zorbax C18 column at 40° C. and eluting isocratically 1.5 mL/min using 60% A (95-5 acetonitrile-water) 40% B (95-5 water-acetonitrile) each with 0.1% TFA where the column effluent was monitored simultaneously at 210 and 277 nM with a Waters model 490 UV-visible detector. After 1.0 hour of additional refluxing, analytical HPLC analysis indicated that the coupling was complete. The reaction mixture poured into 1N HCl and extracted with ethyl acetate, washed with brine, dried over magnesium surf ate, filtered, and the filtrate evaporated in vacuo to afford 160 mg (96%) of the title compound as an amorphous solid.

reactant | N-(4-iso-propylbenzenesulfonyl)-α-(4-carboxy-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetamide | 0.271 mmol, 146 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC(C(OC1=C(C=C(C=C1)C(=O)O)CCC)C1=CC2=C(C=C1)OCO2)=O | C28H29NO8S
reactant | 1,1'-carbonyldiimidazole | 0.406 mmol, 66 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 0.406 mmol, 39 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.667 mmol, 101 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-(4-iso-propylbenzenesulfonyl)-α-(4-(methylsulfonylcarbamyl)-2-n-propylphenoxy)-3,4-methylenedioxyphenylacetamide | 160 mg, 96% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC(C(OC1=C(C=C(C=C1)C(NS(=O)(=O)C)=O)CCC)C1=CC2=C(C=C1)OCO2)=O | C29H32N2O9S2
